US05641788
According to the same manner as that described in Example 1, 3-acetyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline was reacted with N-tert-butyl-N-ethylamine to give 3-acetyl-2-(N-tert-butyl-N-ethylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline. This compound was recrystallized from methanol to give colorless prisms. mp. 156°-157° C.

reactant | 3-acetyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | C(C)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C22H22BrNO5
reactant | N-tert-butyl-N-ethylamine | C(C)(C)(C)NCC | C6H15N
product | 3-acetyl-2-(N-tert-butyl-N-ethylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | C(C)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CN(CC)C(C)(C)C | C28H36N2O5
